US04329353
A mixture of 14.7 parts of ethyl 1-(4-fluorophenyl)-3-methyl-4-oxo-1,3,8-triazaspiro[4,5]decane-8-carboxylate, 16 parts of sodium hydroxide and 160 parts of 1-butanol is stirred and refluxed for 4 hours. The reaction mixture is evaporated and the residue is taken up in water. The product is extracted with trichloromethane. The extract is washed with water, dried, filtered and evaporated. The residue is crystallized from a mixture of 2,2'-oxybispropane and methanol, yielding 2.7 parts (23%) of 1-(4-fluorophenyl)-3-methyl-1,3,8-triazaspiro[4,5]decan-4-one.

reactant | ethyl 1-(4-fluorophenyl)-3-methyl-4-oxo-1,3,8-triazaspiro[4,5]decane-8-carboxylate | FC1=CC=C(C=C1)N1CN(C(C12CCN(CC2)C(=O)OCC)=O)C | C17H22FN3O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | 1-butanol | C(CCC)O | C4H10O
product | 1-(4-fluorophenyl)-3-methyl-1,3,8-triazaspiro[4,5]decan-4-one | 23% | FC1=CC=C(C=C1)N1CN(C(C12CCNCC2)=O)C | C14H18FN3O
